US08541589B2
A mixture of ethyl 2-(2-(4-cyanophenyl)pyridin-3-ylthio)-2-methylpropanoate (0.137 g, 0.42 mmol), aqueous sodium hydroxide solution (1M, 1 mL) and methanol (2 mL) was stirred at 60° C. for 12 hours. The reaction mixture was concentrated to remove methanol, acidified and filtered to obtain 2-(2-(4-cyanophenyl)pyridin-3-ylthio)-2-methylpropanoic acid as a white powder (0.121 g, 96%).

reactant | ethyl 2-(2-(4-cyanophenyl)pyridin-3-ylthio)-2-methylpropanoate | 0.42 mmol, 0.137 g | C(#N)C1=CC=C(C=C1)C1=NC=CC=C1SC(C(=O)OCC)(C)C | C18H18N2O2S
reactant | sodium hydroxide | 1M, 1 mL | [OH-].[Na+]
solvent | methanol | 2 mL | CO | CH4O
product | 2-(2-(4-cyanophenyl)pyridin-3-ylthio)-2-methylpropanoic acid | 0.121 g, 96% | C(#N)C1=CC=C(C=C1)C1=NC=CC=C1SC(C(=O)O)(C)C | C16H14N2O2S
